US09402841B2
Step D: (3-chloroisoquinolin-1-yl)methanol
To a solution of methyl 3-chloroisoquinoline-1-carboxylate (5.1 g, 23.0 mmol) in MeOH (50 mL) was added NaBH4 (2.17 g, 57.5 mmol). The reaction mixture was stirred at RT for 2 hours. The reaction was quenched with saturated aqueous NH4Cl and the mixture was extracted with EtOAc. The organic layer was separated and dried over Na2SO4, and the solvent was evaporated under reduced pressure to give the title compound as a yellow solid (3.94 g, 88%). ESI-MS m/z [M+H]+ 194.

reactant | methyl 3-chloroisoquinoline-1-carboxylate | 23.0 mmol, 5.1 g | ClC=1N=C(C2=CC=CC=C2C1)C(=O)OC | C11H8ClNO2
reactant | NaBH4 | 57.5 mmol, 2.17 g | [BH4-].[Na+]
solvent | MeOH | 50 mL | CO | CH4O
product | (3-chloroisoquinolin-1-yl)methanol | 3.94 g, 88% | ClC=1N=C(C2=CC=CC=C2C1)CO | C10H8ClNO
